* C:\Users\user\Desktop\python_spice\_trafo\trafo_single.asc 
R1 N001 N002 0.3333225806451613 
L1 N002 N003 0.7038129648093842 
V1 N001 0 SINE(0 3384.9829152116454 60) 
R2 N003 0 903.2263548387098 
R3 N005 0 100 
L2 N003 0 0.96383238514174 
L3 N004 0 0.04692179765395895 
L4 N004 N005 0.2m 
.tran 6.510416666666664e-05 0.04993489583333333 0 
K L2 L3 1 
.options  
.backanno 
.end 
