* C:\Users\user\Desktop\python_spice\_trafo\trafo_single.asc 
R1 N001 N002 2.337032258064516
L1 N002 N003 1.579667854349951
V1 N001 0 SINE(0 3384.9829152116454 60) 
R2 N003 0 1000.9780166177908
R3 N005 0 100 
L2 N003 0 0.5435002394916911
L3 N004 0 0.1388083597262952
L4 N004 N005 0.2m 
.tran 6.510416666666664e-05 0.04993489583333333 0 
K L2 L3 1 
.options  
.backanno 
.end 